US05128371
EXAMPLE 5 Production of N-(2,3-dimethylnaphthyl)-N-(2-oxo-tetrahydrofuran-3-yl)-N-(2-methoxy-ethoxy-acetyl)-amine [compound 32].
To 15.3 g of N-(2,3-dimethylnaphtyl)-N-(2-oxo-tetrahydrofuran-3-yl)-amine in 120 ml of toluene are added dropwise 12.2 g of 2-methoxyethoxy-acetyl chloride (MAC) in 20 ml of toluene and afterwards 8.1 g of triethylamine in 20 ml of toluene. The temperature of the reaction rises to 35° and is then raised to 40° for 2 hours. There are subsequently added dropwise a further 2 g of MAC and 1.5 g of triethylamine. The temperature is held overnight at 40°, and afterwards a further 2 g of MAC are added dropwise. After 4 hours, the reaction mixture is cooled to room temperature and filtered, and the filtrate is concentrated by evaporation to yield a resinous residue, which is purified through silica gel 60 using ethyl acetate as the eluant. The solid product occurring from the residue is recrystallised from isopropanol with the addition of active charcoal. The resulting product is the colourless diastereoisomeric mixture of the compound No. 32, m.p. 142°-146°.

reactant | N-(2,3-dimethylnaphtyl)-N-(2-oxo-tetrahydrofuran-3-yl)-amine | 15.3 g | CC1=C(C2=CC=CC=C2C=C1C)NC1C(OCC1)=O | C16H17NO2
reactant | 2-methoxyethoxy-acetyl chloride | 12.2 g | COCCOCC(=O)Cl | C5H9ClO3
reactant | triethylamine | 8.1 g | C(C)N(CC)CC | C6H15N
reactant | MAC | 2 g | COCCOCC(=O)Cl | C5H9ClO3
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
reactant | MAC | 2 g | COCCOCC(=O)Cl | C5H9ClO3
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,3-dimethylnaphthyl)-N-(2-oxo-tetrahydrofuran-3-yl)-N-(2-methoxy-ethoxy-acetyl)-amine | CC1=C(C2=CC=CC=C2C=C1C)N(C(COCCOC)=O)C1C(OCC1)=O | C21H25NO5
